US20010049445A1
Methyl (E)-3-methoxy-2-pentenoate
A 250-ml 2-necked round-bottomed flask was equipped with a magnetic stirring bar, a thermometer and an argon inlet. To a mixture of 30.00 g of methyl 3-oxovalerate (0.225 mol) and 125 ml of methyl orthoformate (121.1 g, 1.12 mol) was added under stirring 7.5 g of amberlist 15. The reaction was slightly exothermal at beginning and the temperature reached 31° C. A check with Drager test tube indicated the development of carbon monoxide. The suspension was stirred at rt for 3 h and then filtered into a 500-ml 4-necked pear-shaped flask equipped with an oil bath, a thermometer, an argon inlet, a 20-cm Vigreux column with a distillation head, a vacuum pump with vacuum controller and a cold trap. The volatile components of the reaction mixture were removed by distillation at a still temperature between 37 and 48° C. and a pressure between 250 and 40 mbar. The head temperature reached max 30° C. The residue, 31.3 g Methyl (E)-3-methoxy-2-pentenoate as a yellow oil was used without purification in the next step (theor. amount 32.5 g calculated as enol ether).

reactant | methyl 3-oxovalerate | 0.225 mol, 30.00 g | O=C(CC(=O)OC)CC | C6H10O3
reactant | methyl orthoformate | 1.12 mol, 125 ml, 121.1 g | C(OC)([O-])[O-]
reactant | carbon monoxide | [C]=O | CO
product | Methyl (E)-3-methoxy-2-pentenoate | CO/C(=C/C(=O)OC)/CC | C7H12O3
